US06329389B1
Bromine (1.5 ml) was added dropwise to an acetonitrile (60 ml) solution of triphenylphosphine (5 g). After stirring for 5 minutes, an acetonitrile solution (30 ml) of 2-(4-biphenylyl)ethanol (5 g) was added to the reaction mixture. The reaction mixture was stirred at room temperature for one hour and concentrated. Diethyl ether was added to the residue. The supernatant was collected, then dried and concentrated. The residue was purified by silica gel column chromatography (eluent: IPE) to obtain 2-(4-bipenylyl)ethylbromide(6 g). 2-(4-Bipenylyl)ethyl bromide (6 g) was dissolved in methanol (100 ml), which was stirred at 70° C. for 48 hours together with potassium thiocyanate (4.0 g). The reaction mixture was concentrated, and the residue was extracted with ethyl acetate. The organic layer was washed with water, then dried and concentrated. The residue was recrystallized from ethyl acetate-hexane to obtain the entitled compound (4.1 g).

reactant | Bromine | 1.5 ml | BrBr | Br2
reactant | triphenylphosphine | 5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(4-biphenylyl)ethanol | 5 g | C1(=CC=C(C=C1)CCO)C1=CC=CC=C1 | C14H14O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | 2-(4-bipenylyl)ethylbromide | 6 g | C1(=CC=C(C=C1)CCBr)C1=CC=CC=C1 | C14H13Br
